US07915267B2
N-{[4′-({2-[acetyl(hydroxy)amino]-3-methylbutyl}sulfonyl)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide
To a suspension of N-[(4′-{[2-(hydroxyamino)-3-methylbutyl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 107 (0.100 g, 0.192 mmol) and acetic acid (2 mL) in THF (20 mL) was added acetic anhydride (0.018 mL, 0.192 mmol) at room temperature, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from EtOH-ethyl acetate-diethyl ether-hexane to give the title compound as a white powder (0.085 g, 79%).

reactant | N-[(4′-{[2-(hydroxyamino)-3-methylbutyl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide | ONC(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C(C)C | C27H28N4O5S
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.192 mmol, 0.018 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-{[4′-({2-[acetyl(hydroxy)amino]-3-methylbutyl}sulfonyl)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide | 0.085 g, 79% | C(C)(=O)N(C(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C(C)C)O | C29H30N4O6S
